US05753664
5-Tert-butyl-3-methyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one
4-Acetyl-2-t-butyl-5-dimethylamino-3(2H)-pyridazinone (2.5 g) was added to hydrazine (3.2 g)/ethanol (30 ml) and the mixture was refluxed for 6 hours. After the ethanol-hydrazine was distilled off, the residue was extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated to dryness. The residue was washed with n-hexane and diethyl ether and dried. White powder, 1.7 g. 1H-NMR (CDCl3) 6: 1.70(9H,s), 2.74(3H,s), 8.10(1H,s).

reactant | 4-Acetyl-2-t-butyl-5-dimethylamino-3(2H)-pyridazinone | 2.5 g | C(C)(=O)C=1C(N(N=CC1N(C)C)C(C)(C)C)=O | C12H19N3O2
reactant | hydrazine | 3.2 g | NN | H4N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Tert-butyl-3-methyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one | C(C)(C)(C)N1N=CC2=C(C1=O)C(=NN2)C | C10H14N4O
